US07067529B2
A solution of 6,7-dimethoxy-1-(3-methoxy-5-methyl-benzyl)-3,4-dihydro-isoquinoline-4-carboxylic acid ethyl ester (0.73 g, 1.8 mmol) and 10% palladium on carbon (230 mg) in xylene (15 mL) was refluxed overnight. The reaction mixture was cooled, filtered through celite, and concentrated in vacuo to afford 6,7-dimethoxy-1-(3-methoxy-5-methyl-benzyl)-isoquinoline-4-carboxylic acid ethyl ester as a light brown oil (0.63 g, 89%). This material was used without further purification: 1H NMR (300 MHz) compatible.

reactant | 6,7-dimethoxy-1-(3-methoxy-5-methyl-benzyl)-3,4-dihydro-isoquinoline-4-carboxylic acid ethyl ester | 1.8 mmol, 0.73 g | C(C)OC(=O)C1CN=C(C2=CC(=C(C=C12)OC)OC)CC1=CC(=CC(=C1)C)OC | C23H27NO5
catalyst | palladium on carbon | 230 mg | [Pd] | Pd
solvent | xylene | 15 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 6,7-dimethoxy-1-(3-methoxy-5-methyl-benzyl)-isoquinoline-4-carboxylic acid ethyl ester | 0.63 g, 89% | C(C)OC(=O)C1=CN=C(C2=CC(=C(C=C12)OC)OC)CC1=CC(=CC(=C1)C)OC | C23H25NO5
